US05807859
The process is performed as in Example 15 for the preparation of 10-(1-carboxy-1-hydroxymethyl)-5H, 10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one but starting with 2 g of 8-(3-methylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 32 ml of dimethyl sulphoxide, 0.93 g of glyoxylic acid monohydrate and 1.11 g of sodium hydride. After treatment of the reaction mixture with acetic acid (2.4 ml), the suspension is filtered and 100 ml of acetone are added to the filtrate. The greyish precipitate formed is filtered off, triturated with ethanol (2×50 ml), filtered off and dried at 60° C. under vacuum (1 mmHg; 0.13 kPa). The solid obtained (2.29 g) is treated with 24 ml of water and 12 ml of 1N hydrochloric acid. A brown precipitate forms which is filtered off, washed with water (2×5 ml), then with acetone (2×5 ml) and dried at 60° C. under vacuum (1 mmHg; 0.13 kPa). 1 g of 10-(1-carboxy-1-hydroxymethyl)-8-(3-methylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is obtained in the form of a dark yellow solid melting above 260° C. (Analysis, % calculated C: 55.28, H: 4.09, N: 18.96, O: 21.66, % found C: 55.1, H: 3.6, N: 18.9).

reactant | 10-(1-carboxy-1-hydroxymethyl)-5H, 10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | C(=O)(O)C(O)C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C15H11N3O4
reactant | 8-(3-methylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 2 g | CNC(NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1)=O | C15H13N5O2
reactant | glyoxylic acid monohydrate | 0.93 g | O.C(C=O)(=O)O
reactant | sodium hydride | 1.11 g | [H-].[Na+]
reactant | hydrochloric acid | 1N, 12 ml | Cl | ClH
solvent | water | 24 ml | O | H2O
solvent | dimethyl sulphoxide | 32 ml | CS(=O)C | C2H6OS
product | 10-(1-carboxy-1-hydroxymethyl)-8-(3-methylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1 g | C(=O)(O)C(O)C1C=2C=C(C=CC2C=2NC(C=3N(C21)C=CN3)=O)NC(=O)NC | C17H15N5O5
